US07759349B2
Sodium (40 mg) was added to stirred propanol (4 g). After the sodium had dissolved, 6-chloro-5-methylpyridazin-3-amine (200 mg) was added and the mixture was heated to 155° in a glass pressure vessel with magnetic stirring for 24 h. The cooled reaction mixture was diluted with water and extracted with chloroform (3×50 mL). The combined extracts were dried (sodium sulfate) and evaporated to afford crude 5-methyl-6-propyoxypyridazin-3-amine.

reactant | Sodium | 40 mg | [Na] | Na
reactant | propanol | 4 g | C(CC)O | C3H8O
reactant | 6-chloro-5-methylpyridazin-3-amine | 200 mg | ClC1=C(C=C(N=N1)N)C | C5H6ClN3
solvent | water | O | H2O
product | 5-methyl-6-propyoxypyridazin-3-amine | CC=1C=C(N=NC1OCCC)N | C8H13N3O
